US07186734B2
A solution of 5-butyl-4-methyl-6-phenyl-pyrimidine (320 mg, 1.14 mmol) and Br2 (0.08 ml, 1.48 mmol) in AcOH (2 mL) is stirred at 80° C. for 2 hours. After cooling, the solution is concentrated. The residue is then partitioned between Et2O and half saturated aqueous NaHCO3. The layers are separated, and the aqueous layer is reextracted once with Et2O. The combined extracts are dried over Na2SO4 and concentrated. The residue is purified by flash chromatography on silica gel. Elution with 3:1 hexanes-EtOAc affords 4-bromomethyl-5-butyl-6-phenyl-pyrimidine and a small amount of an unidentified impurity. 1H NMR (CDCl3, 300 MHz) δ 9.08 (s, 1H), 7.47 (s, 5H), 4.57 (s, 2H), 2.79–2.74 (m, 2H), 1.52–1.42 (m, 2H), 1.38–1.20 (m, 2H), 0.80 (t, J=7.4 Hz, 3H) ppm.

reactant | 5-butyl-4-methyl-6-phenyl-pyrimidine | 1.14 mmol, 320 mg | C(CCC)C=1C(=NC=NC1C1=CC=CC=C1)C | C15H18N2
reactant | Br2 | 1.48 mmol, 0.08 ml | BrBr | Br2
solvent | AcOH | 2 mL | CC(=O)O | C2H4O2
product | 4-bromomethyl-5-butyl-6-phenyl-pyrimidine | BrCC1=NC=NC(=C1CCCC)C1=CC=CC=C1 | C15H17BrN2
